US04623650
3-(4-t-Butyldimethylsilyloxymethylphenyl)-4-fluoronitrobenzene
6.0 g (98% yield was prepared by the method of Example 19E from 4.2 g 4-(2-fluoro-5-nitrophenyl)benzyl alcohol, 2.5 g imidazole and 3.5 g t-butyldimethylsilyl chloride. The oil was used without further purification.

reactant | 4-(2-fluoro-5-nitrophenyl)benzyl alcohol | 4.2 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C1=CC=C(CO)C=C1 | C13H10FNO3
reactant | imidazole | 2.5 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 3.5 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
product | 3-(4-t-Butyldimethylsilyloxymethylphenyl)-4-fluoronitrobenzene | 98% yield | [Si](C)(C)(C(C)(C)C)OCC1=CC=C(C=C1)C=1C=C(C=CC1F)[N+](=O)[O-] | C19H24FNO3Si
